US04886835
The procedure is as in Example 4 for the preparation of ethyl 6-phenyl-6-oxo-5-methylthio-2-dimethylamino-2,4-hexadienoate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (17.8 g), a 2M ethanolic solution of sodium ethylate (31.3 cc) and ethyl (3-benzoylphenyl)acetate (16.8 g) in ethanol (100 cc). After purification by chromatography on a silica column with dichloromethane as eluent, diethyl 2-dimethylamino-5-(3-benzoylphenyl)-2,4-hexadienedioate (14 g) is obtained in the form of a yellow oil, and is used in the crude state in the subsequent syntheses.

reactant | ethyl 6-phenyl-6-oxo-5-methylthio-2-dimethylamino-2,4-hexadienoate | C1(=CC=CC=C1)C(C(=CC=C(C(=O)OCC)N(C)C)SC)=O | C17H21NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 17.8 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | sodium ethylate | 31.3 cc | CC[O-].[Na+]
reactant | ethyl (3-benzoylphenyl)acetate | 16.8 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)CC(=O)OCC | C17H16O3
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | diethyl 2-dimethylamino-5-(3-benzoylphenyl)-2,4-hexadienedioate | 14 g | CN(C(C(=O)OCC)=CC=C(C(=O)OCC)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O)C | C25H27NO5
